US06200999B1
4-Aminomethyl-3-ethoxyisoxazole-5-carboxylic Acid Hydrochloride
A solution of ethyl 3-ethoxy-4-phthalimidomethylisoxazole-5-carboxylate in 1 M NaOH was boiled under reflux for 45 min. The mixture was cooled, added concd HCl and extracted with diethylether (3×400 ml). The organic extracts were concentrated in vacuo, added 1 M HCl (600 mL) and boiled under reflux for 1 h. After cooling the mixture was washed with diethylether (3×600 mL) and concentrated in vacuo to give a crude product which was recrystallized (acetic acid) to yield the title compound (1.5 g, 82%): mp 215-216° C. (dec).

reactant | ethyl 3-ethoxy-4-phthalimidomethylisoxazole-5-carboxylate | C(C)OC1=NOC(=C1CN1C(C=2C(C1=O)=CC=CC2)=O)C(=O)OCC | C17H16N2O6
reactant | HCl | Cl | ClH
solvent | NaOH | 1 M | [OH-].[Na+]
product | 4-Aminomethyl-3-ethoxyisoxazole-5-carboxylic Acid Hydrochloride | 1.5 g, 82% | Cl.NCC=1C(=NOC1C(=O)O)OCC | InChI=1S/C7H10N2O4.ClH/c1-2-12-6-4(3-8)5(7(10)11)13-9-6;/h2-3,8H2,1H3,(H,10,11);1H
